US07166598B2
A solution of (2S,5S)-4-benzyl-2-methoxymethyl-5-methylmorpholine (0.86 g) in a mixture of concentrated hydrochloric acid (0.31 ml) and methanol (8.6 ml) was hydrogenated over 10% palladium-carbon (50% wet, 0.2 g) at room temperature under atmospheric pressure for 3 hours. After removal of the catalyst by filtration through Celite®, the filtrate was concentrated under reduced pressure to give (2S,5S)-2-methoxymethyl-5-methylmorpholine hydrochloride (0.71 g) as an oil.

reactant | (2S,5S)-4-benzyl-2-methoxymethyl-5-methylmorpholine | 0.86 g | C(C1=CC=CC=C1)N1C[C@H](OC[C@@H]1C)COC | C14H21NO2
reactant | hydrochloric acid | 0.31 ml | Cl | ClH
catalyst | palladium-carbon | 0.2 g | [C].[Pd]
solvent | methanol | 8.6 ml | CO | CH4O
product | (2S,5S)-2-methoxymethyl-5-methylmorpholine hydrochloride | 0.71 g | Cl.COC[C@@H]1CN[C@H](CO1)C | InChI=1S/C7H15NO2.ClH/c1-6-4-10-7(3-8-6)5-9-2;/h6-8H,3-5H2,1-2H3;1H/t6-,7-;/m0./s1
